US06740647B1
d) 5-Bromomethyl-4-methylthiophene-3-carbonitrile
30 g (115 mmol) of triphenylphosphine were added at 5° C. to a solution of 16 g (104 mmol) of 5-hydroxymethyl-4-methylthiophene-3-carbonitrile in 300 ml of tetrahydrofuran. Then, a solution of 38 g (115 mmol) of tetrabromomethane in 100 ml of tetrahydrofuran was added. The mixture was stirred overnight at room temperature. The reaction mixture was concentrated on a rotary evaporator under a water pump vacuum and the residue was purified by column chromatography (eluant petroleum ether:dichloromethane 1:1). This gave 17 g (76%) of the title compound as yellow oil. 1H NMR (270 MHz, DMSO-d6): δ=2.25 (s, 3H), 5.0 (s, 2H), 8.5 (s, 1H).

reactant | triphenylphosphine | 115 mmol, 30 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-hydroxymethyl-4-methylthiophene-3-carbonitrile | 104 mmol, 16 g | OCC1=C(C(=CS1)C#N)C | C7H7NOS
reactant | tetrabromomethane | 115 mmol, 38 g | BrC(Br)(Br)Br | CBr4
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-Bromomethyl-4-methylthiophene-3-carbonitrile | BrCC1=C(C(=CS1)C#N)C | C7H6BrNS
